US07553873B2
BOP coupling of 2-[(4′-Amino-biphenyl-4-carbonyl)-amino]-pentanedioic acid di-tert-butyl ester (349 mg, 0.77 mmol) with 2-Benzofuran carboxylic acid (124 mg, 0.77 mmol, 1 equiv.) was carried out according to procedures in step A of Example 6B to give 185 mg of 2-({4′-[(Benzofuran-2-carbonyl)-amino]-biphenyl-4-carbonyl}-amino)-pentanedioic acid di-tert-butyl ester in 40% yield. MS (ESI) m/z 597.

reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-[(4′-Amino-biphenyl-4-carbonyl)-amino]-pentanedioic acid di-tert-butyl ester | 0.77 mmol, 349 mg | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C26H34N2O5
reactant | 2-Benzofuran carboxylic acid | 0.77 mmol, 124 mg, 1 equiv. | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
product | 2-({4′-[(Benzofuran-2-carbonyl)-amino]-biphenyl-4-carbonyl}-amino)-pentanedioic acid di-tert-butyl ester | 185 mg, 40% yield | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1)C=CC=C2)=O | C35H38N2O7
